US04791229
6.1 ml (0.12 mole) of cyanogen chloride were added, at a temperature below 10° C., to 16.3 g (0.1 mole) of 3,4-dichloroaniline in 150 ml of ethanol and 40 g of 50% strength acetic acid. 110 ml of 1N NaOH solution was then added dropwise. The mixture was stirred for a further hour and concentrated under a water pump vacuum until a bath temperature of 30° C. had been reached, and the residue was washed with water. 17.8 g (≅95% of theory) of 3,4-dichlorophenyl cyanamide were obtained. The substance was homogeneous according to examination by thin layer chromatography and gave a clear solution in 2N NaOH.

reactant | cyanogen chloride | 0.12 mole, 6.1 ml | N#CCl | CClN
reactant | 3,4-dichloroaniline | 0.1 mole, 16.3 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaOH | 1N, 110 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3,4-dichlorophenyl cyanamide | 17.8 g, 95% | ClC=1C=C(C=CC1Cl)NC#N | C7H4Cl2N2
